US05545652
In the same manner as in Reference Example 1, starting from 2-(2-fluorophenyl)-2-[(1R)-1-(3,4,5,6-tetrahydro-2H-pyran-2-yl)oxyethyl]oxirane (synthesized by the method described in EP 0548553A), (1R)-1-[2-(2-fluorophenyl)-2-oxiranyl]ethanol was obtained. To a solution of this product (34.77 g) in tetrahydrofuran (600 ml) were added, with ice cooling, 127.21 g of triphenyl phosphine, 102.88 g of 3,5-dinitrobenzoic acid and 84.47 g of diethyl azodicarboxylate, and the resulting mixture was stirred at room temperature for 7 hours under an atmosphere of argon. To the reaction solution were added 600 ml of ethyl acetate, 100 ml of diisopropyl ether and 800 ml of water to fractionate and the aqueous layer was extracted with ethyl acetate (600 ml, 400 ml). The organic layers were combined, washed with water and a saturated aqueous solution of sodium chloride successively, then dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=5/1) to give 23.15 g of [(1S)-1-[(2R)-2-(2-fluorophenyl)-2-oxiranyl)ethyl]3,5-dinitrobenzoate as colorless needles.

reactant | 2-(2-fluorophenyl)-2-[(1R)-1-(3,4,5,6-tetrahydro-2H-pyran-2-yl)oxyethyl]oxirane | FC1=C(C=CC=C1)C1(OC1)[C@@H](C)OC1OCCCC1 | C15H19FO3
reactant | (1R)-1-[2-(2-fluorophenyl)-2-oxiranyl]ethanol | FC1=C(C=CC=C1)C1(OC1)[C@@H](C)O | C10H11FO2
reactant | triphenyl phosphine | 127.21 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3,5-dinitrobenzoic acid | 102.88 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C7H4N2O6
reactant | diethyl azodicarboxylate | 84.47 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | diisopropyl ether | 100 ml | C(C)(C)OC(C)C | C6H14O
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | water | 800 ml | O | H2O
solvent | ethyl acetate | 600 ml | C(C)(=O)OCC | C4H8O2
product | [(1S)-1-[(2R)-2-(2-fluorophenyl)-2-oxiranyl)ethyl]3,5-dinitrobenzoate | 23.15 g | FC1=C(C=CC=C1)[C@]1(OC1)[C@H](C)OC(C1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C17H13FN2O7
